Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status, fevers

 
Major Surgical or Invasive Procedure:
Lumbar puncture
 
History of Present Illness:
___ man with a history of coronary artery disease status 
post LAD stent ___ and CABG in ___, hypertension, COPD, daily 
alcohol use, tobacco use who presents with 2 days of high-grade 
temperatures and progressive worsening mental status and 
obtundation.

The history is provided by the patient's wife as the patient is 
unable to answer any questions.  Approximately 1 week ago the 
patient had a temperature to 101 along with associated myalgias 
that resolved with a night of sleep.  He proceeded to feel 
normal throughout the week.  Yesterday, one day prior to 
admission, his wife returned home from work at 4 ___ and found 
the patient covered in blankets saying he was called with 
Rigors.  He had significant nasal congestion and cough.  The 
patient went to bed at that time and proceeded to have several 
coughing fits that were severe during which she would gasp for 
air.  He was able to tell her he felt fine during that time but 
otherwise did not speak much.  At 2 AM she awoke to find her 
husband sweating through the bed, with rigors, and ongoing 
fever.  He was obtunded and unable to answer any questions or 
follow any commands.  She noted that he had had fecal 
incontinence.  She called an ambulance and was taken to ___ 
___. 

Initial vitals at ___ were temp 101.3, HR 111, RR 22, BP 
173/118, O2 sat 100% RA. He was noted to be agitated and unable 
to follow commands.  He was also to note noted to have a 
maculopapular rash over his pelvis at the belt line with 
scattered lesions on the trunk and back.  Labs were notable as 
follows:

WBC: 9.4 
Hgb: 15.6
Plt: 173 
Na 129
K 3.4 
Cr. 0.9 
BUN 10 
Bicarb 26

AST/ALT: 49/44
Alk phos 124
T Bili: 1.6 
Albumin 3.4 
Ammonia: 20

VBG: 7.4/___
Lactate 2.7  -> 1.2 

Serum tox: neg salicylates, acetaminophen, etoh

Procalcitonin: 0.08 (neg) 
Troponin I 0.06 (neg) 
UA: sm blood, neg nitrite, leukoycte esterase

LP: 
#1: 11 WBC (6% neut, 55% lymph, 58% monocyt), 9 RBC
#2: 15 WBC (5% neut, 37% lymph, 39% monocyte)
Protein: 132.7 (high)
Glucose: 74  

He underwent a CT of his head which showed no acute 
abnormalities, a CT of his torso which showed no acute 
infection, pulmonary embolism, or other abnormalities.  He had a 
right upper quadrant ultrasound which showed no evidence of 
cholecystitis or biliary ductal dilatation.  He also had a chest 
x-ray and an abdominal x-ray which were unremarkable for any 
acute finding.  He was initially given vancomycin and Zosyn and 
this was later broadened to ceftriaxone, ampicillin, and 
acyclovir at meningitis dosing. He was also given 10mg 
dexamethasone and PR Tylenol.  He is transferred to ___ 
___ due to unavailability of ICU beds at ___.

On arrival to ___, vitals were 101.4 ___ 22 96% 2L NC. 
 He remained obtunded, unable to answer questions the rash is 
again noted on exam.  He was noted to have rigidity in his 
muscles as well as a diffuse tremor.  He was given Toradol and 2 
L of IV fluid and admitted to the medical ICU.
 
On arrival the patient's family endorses the history as above.

 
Past Medical History:
Hypertension
CAD s/p CATH w/ LAD stenting ___
COPD
tobacco use
EtOH
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: Reviewed in metavision  
GENERAL: Lying in bed, diffusely tremulous, flushed, unable to 
follow any commands, no purposeful actions
HEENT: Sclera anicteric, pupils are equal and reactive
NECK: JVP not elevated, no obvious nuchal rigidity overall 
patient resists exam
LUNGS: Clear to auscultation bilaterally  without overt crackles 
or wheezes  
CV: Tachycardic rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Blanching maculopapular rash noted over the trunk worsened 
over the waistline with confluent lesions over the pelvis and an 
area of confluent lesions over the right flank.  Scattered 
papular lesions over the chest and upper back with a few 
scattered lesions over the distal extremities but no obvious 
lesions on the palms and soles
NEURO: Unable to follow commands, face grossly symmetric, 
resists opening eyes and mouth.  Pupils are grossly equal.  
Moving all extremities with coarse tremor in all extremities.  
12 beats of clonus noted in both ankles.  3+ reflexes 
throughout.

DISCHARGE PHYSICAL EXAM:
========================
General: Alert, oriented, in no acute distress, somewhat
hard-of-hearing in the R ear.
HEENT: NC/AT, sclera anicteric, oropharynx clear, MMM. 
Lungs: Diffuse expiratory>inspiratory rhonchi, diminished breath
sounds at the right base.
CV: RRR, S1, S2, no murmurs/rubs/gallops.
Abdomen: Soft, non-tender to deep palpation, non-distended.
Ext: No ___ edema.
Neuro: AOx3, motor exam full to confrontation.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:15PM BLOOD WBC-9.0 RBC-4.59* Hgb-14.9 Hct-42.9 
MCV-94 MCH-32.5* MCHC-34.7 RDW-15.2 RDWSD-51.9* Plt ___
___ 02:15PM BLOOD Neuts-92.4* Lymphs-5.0* Monos-2.0* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-8.28* AbsLymp-0.45* 
AbsMono-0.18* AbsEos-0.00* AbsBaso-0.02
___ 02:15PM BLOOD ___ PTT-19.7* ___
___ 02:15PM BLOOD Glucose-132* UreaN-9 Creat-0.7 Na-128* 
K-4.1 Cl-87* HCO3-26 AnGap-15
___ 02:15PM BLOOD ALT-35 AST-54* LD(LDH)-404* CK(CPK)-284 
AlkPhos-103 TotBili-1.1
___ 02:15PM BLOOD cTropnT-<0.01
___ 02:01AM BLOOD proBNP-6609*
___ 02:15PM BLOOD Albumin-3.6 Calcium-8.2* Phos-2.3* 
Mg-1.4*
___ 02:01AM BLOOD Osmolal-263*
___ 02:15PM BLOOD TSH-0.42
___ 02:15PM BLOOD CRP-79.6*
___ 08:50PM BLOOD HIV Ab-NEG
___ 02:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

RELEVANT STUDIES:
=================
___ CXR PORTABLE AP:
Linear retrocardiac opacities, which most likely represent 
atelectasis 
although early aspiration pneumonitis cannot be excluded. 

___ CXR PORTABLE AP:
Worsening likely pulmonary edema compared to ___.

___ MR HEAD W/ & W/O CONTRAST: 
1. Small focus of diffusion signal abnormality in the left 
occipital lobe is consistent with a subacute infarct. 
2. 5 mm outpouching from the anterior communicating artery, 
possibly 
representing an aneurysm or vascular loop, for which CTA is 
recommended for further characterization.  No evidence of 
subarachnoid hemorrhage. 
3. No abnormal enhancement or other definite evidence of 
meningitis. 
4. Paranasal sinus disease and nonspecific mastoid opacification 
as described. 

___ TTE:
The left atrium is normal in size. There is no evidence for a 
right-to-left shunt with agitated saline at rest. The right 
atrial pressure could not be estimated. There is mild symmetric 
left ventricular hypertrophy with a normal cavity size. There is 
moderate regional left ventricular systolic dysfunction with 
hypokinesis of the anterior wall and anterior septum (see 
schematic) and preserved/normal contractility of the remaining
segments. No thrombus or mass is seen in the left ventricle. 
Quantitative biplane left ventricular ejection fraction is 35 %. 
Left ventricular cardiac index is low normal (2.0-2.5 L/min/m2). 
There is no resting left
ventricular outflow tract gradient. Tissue Doppler suggests a 
normal left ventricular filling pressure (PCWP less than 
12mmHg). Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal descending aorta diameter. The 
aortic valve leaflets (3) appear structurally normal. There is 
no aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets are mildly thickened with no mitral valve 
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets are mildly thickened. There is physiologic 
tricuspid regurgitation. The estimated pulmonary artery systolic 
pressure is borderline elevated. There is no pericardial 
effusion.

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with moderate regional systolic 
dysfunction most c/w coronary artery disease (LAD distribution). 
No right-to-left shunt at rest.

DISCHARGE LABS:
===============
___ 06:05AM BLOOD WBC-7.7 RBC-3.92* Hgb-12.8* Hct-37.0* 
MCV-94 MCH-32.7* MCHC-34.6 RDW-16.2* RDWSD-56.1* Plt ___
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD UreaN-14 Creat-0.7 Na-142 K-3.8 Cl-100 
HCO3-27 AnGap-15
___ 06:05AM BLOOD ALT-94* AST-58* AlkPhos-123 TotBili-0.7
___ 06:05AM BLOOD Mg-2.___ with history of CAD s/p stents x2 (___) and CABG 
(___), HTN, COPD, and alcohol use disorder who presented with 
two days of fever and progressively worsening mental status, 
likely ___ viral encephalitis. His hospital course was c/b 
hypoxic respiratory failure requiring intubation, CHF 
exacerbation, and new afib/aflutter. He was actively diuresed 
and weaned to room air.

ACUTE ISSUES:
=============
#Acute encephalopathy, resolved
#Viral encephalitis
___ viremia
Patient p/w several days of high-grade fevers and AMS to OSH, 
where he underwent LP with CSF studies showing lymphocytic 
pleocytosis with elevated protein and normal glucose, suggestive 
of a viral process. On transfer, repeat CSF studies at ___ 
were consistent with the above. His exam was also notable for a 
rash thought to be viral exanthema. He was initiated on empiric 
vancomycin, CTX, ampicillin, acyclovir, and doxycycline (for 
possible tick-borne illness); these antibiotics/anti-virals were 
discontinued with negative infectious work-up and due to c/f 
doxycycline-induced transaminitis as below. He underwent 
extensive work-up for causes of meningitis and encephalitis, 
which was unrevealing other than a positive serum ___ B 
antibody titer, though of note, CSF enteroviral RNA was 
negative. ___ CSF Ab and Borrelia mi___ CSF PCR were 
still pending at the time of discharge. ___ MRI showed no e/o 
abnormal enhancement c/f meningitis. He was followed by 
Infectious Disease and Neurology throughout his course. By the 
time of discharge, he had clinically improved without focal 
neurological deficits. He was discharged home with home ___.

#Hypoxic respiratory failure
#Acute-on-chronic systolic heart failure
Patient required intubation for airway protection in the setting 
of altered mental status. He was extubated on ___ and initially 
had O2 requirement of 3L NC. Acute-on-chronic systolic heart 
failure likely developed in the setting of aggressive IVF 
resuscitation while in the MICU. TTE on admission showed LVEF 
35% with RWMA in an LAD distribution with no e/o valvular 
disease. He was actively diuresed with IV Lasix for pulmonary 
edema seen on CXR and weaned to RA. In the setting of known 
HFrEF, he was started on lisinopril, and his home metoprolol was 
uptitrated. He was discharged on lisinopril 30mg daily and 
metoprolol succinate 100mg daily.

#Paroxysmal atrial fibrillation/aflutter
Patient developed afib with RVR to the 150's on ___ c/b 
hypotension with SBP's in the ___. He has no known history of 
afib. Arrhythmia likely occurred in the setting of acute illness 
and volume overload superimposed on known ischemic heart 
disease. CHADS2-VaSC 5. He was bridged from heparin to 
rivaroxaban 20mg daily and continued on metoprolol as above.

#Alcohol use disorder
Patient endorses daily alcohol use with 4 beers and 3 mixed 
drinks but denies history of withdrawal. S/p phenobarbital 
taper. He also received thiamine and folate repletion. Patient 
declined Social Work consult.

#Transaminitis
AST/ALT noted to be uptrending since ___ with a hepatocellular 
pattern shortly after initiating empiric doxycycline, c/f 
drug-induced liver injury. Transaminitis did not improve despite 
diuresis, less c/w congestive hepatopathy. Doxycycline was 
discontinued prior to discharge. Please follow up patient's 
LFT's within a week of discharge.

#Subacute occipital lobe ischemic infarct
Seen on ___ MRI with unclear etiology. He was started on 
systemic anticoagulation for c/f embolic event.

#Anterior communicating artery aneurysm
Noted incidentally on ___ CTA head/neck. Please consider 
connecting patient with a neurologist for interval imaging and 
follow-up of anterior communicating aneurysm.

CHRONIC ISSUES:
===============
#CAD c/b ischemic cardiomyopathy
H/o stents placed in ___ and ___, for which he had been on 
DAPT. Due to need for systemic anticoagulation in the setting of 
pAF and e/o prior ischemic infarct, he was initiated on 
rivaroxaban and continued on clopidogrel 75mg daily. ASA was 
stopped. He continued atorvastatin 80mg qHS and metoprolol and 
lisinopril as above.

#COPD
- continued on home mometasone-formoterol inhaler

TRANSITIONAL ISSUES:
====================
- For PCP: ___ will follow up on the pending encephalitis studies 
(___ CSF Ab and Borrelia miyamotoi CSF PCR) and contact you 
with the results.
[] Please ensure patient has repeat LFT's within a week of 
discharge.
[] Please monitor patient's volume status and start a PO 
diuretic if overloaded.
[] Please monitor BP's and uptitrate lisinopril dosing as 
needed.
[] Please continue to monitor patient's alcohol use and counsel 
around cutting down/cessation as needed.
[] Please consider connecting patient with a neurologist for 
further follow-up of occipital infarct and anterior 
communicating aneurysm.

Contact: ___ (wife), ___ 
Full Code

Time spent coordinating discharge > 30 minutes
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Dulera (mometasone-formoterol) 200-5 mcg/actuation inhalation 
BID 
6. Lidocaine 5% Patch 1 PTCH TD QAM 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Lisinopril 30 mg PO DAILY 
RX *lisinopril 30 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Multivitamins W/minerals 15 mL PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
4.  Rivaroxaban 20 mg PO DINNER 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth at dinner 
Disp #*30 Tablet Refills:*0 
5.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
6.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 50 mg 2 tablet(s) by mouth once a day 
Disp #*60 Tablet Refills:*0 
7.  Atorvastatin 80 mg PO QPM  
8.  Clopidogrel 75 mg PO DAILY  
9.  Dulera (mometasone-formoterol) 200-5 mcg/actuation 
inhalation BID  
10.  Lidocaine 5% Patch 1 PTCH TD QAM  
11.Walker
Rolling walker for acute viral encephalitis (ICD-9 064), 
prognosis good, length of need 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Acute viral encephalitis
Acute hypoxic respiratory failure
Acute-on-chronic systolic heart failure
Atrial fibrillation/atrial flutter
Transaminitis
___ viremia

SECONDARY DIAGNOSES:
====================
Alcohol use disorder
Subacute occipital lobe ischemic infarct
Anterior communicating artery aneurysm
COPD
CAD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You were admitted because of high fevers and a change in your 
mental state.

What did you receive in the hospital?
- You had many tests to determine if an infection was causing 
your symptoms. We believe that a virus may have caused 
encephalitis, or inflammation of the brain, for which the 
treatment is supportive (and time to allow you to recover).
- While you were in the hospital, you were also treated for an 
irregular heart rhythm, called atrial fibrillation, that 
developed because of being sick. You were started on a blood 
thinner called Xarelto/rivaroxaban to decrease the risk of 
stroke related to blood clots forming in the heart from this 
irregular rhythm.
- Because of receiving a lot of fluids while you were sick, you 
also had extra fluid in your lungs. We gave you a water pill 
through the IV, a medication that helps get rid of the excess 
fluid.
- You were also given a medication called phenobarbital because 
of concern that you might withdraw from alcohol.

What should you do once you leave the hospital?
- Please continue to take all of your medications as prescribed.
- You have follow-up with your primary care doctor and 
cardiologist.
- Please weigh yourself every day and call your doctor if your 
weight increases by more than 3 pounds in one day.

We wish you all the best!
- Your ___ Care Team 
 
Followup Instructions:
___